US05164371
N-Benzyloxycarbonyl-L-valine (121.3 g), 1-hydroxybenzotriazole (130.5 g) and dry dimethylformamide (DMF) (800 ml) were placed in a 5 liter, 3-necked flask equipped with a mechanical stirrer, thermometer, and a calcium sulfate drying tube, under nitrogen atmosphere. The mixture was cooled to 0° for 15 min and proline t-butyl ester (82.6 g) in dry DMF (800 ml) was added at a fast dropwise rate over 2 h while the temperature of the reaction mixture was maintained at 0°. Dicyclohexylcarbodiimide (109.4 g) in dry DMF (400 ml) then was added in one portion to the reaction mixture. The reaction was stirred at 0° for 3 h, allowed to warm to room temperature gradually over 1 h, and stirred for 48 h, whereupon the reaction was shown to be complete by TLC [Rf =0.55, chloroform:ethyl acetate (85:15)]. The reaction mixture was chilled in ice/water and filtered cold to remove the precipitated dicyclohexyl urea. The DMF was evaporated using a mechanical vacuum pump and at a maximum bath temperature of 40°. The remaining oil was diluted with ethyl acetate (2 liter), chilled, and refiltered to remove additional dicyclohexyl urea. The ethyl acetate solution was washed (20% (w/v) citric acid solution (twice), saturated sodium chloride solution, saturated sodium bicarbonate solution (twice), and saturated sodium chloride solution), dried (MgSO4), and evaporated to afford crude benzyloxycarbonyl-L-valyl-L-proline t-butyl ester as an amber oil (208.3 g, 100%).

reactant | N-Benzyloxycarbonyl-L-valine | 121.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | 1-hydroxybenzotriazole | 130.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | proline t-butyl ester | 82.6 g | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | Dicyclohexylcarbodiimide | 109.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 800 ml | CN(C=O)C | C3H7NO
solvent | DMF | 400 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
solvent | chloroform ethyl acetate | C(Cl)(Cl)Cl.C(C)(=O)OCC
product | benzyloxycarbonyl-L-valyl-L-proline t-butyl ester | 208.3 g, 100% | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C22H32N2O5
